US07220856B2
Preparation of 7-Chloro-4-(3-methylpiperazin-1-yl)quinoline
4,7-Dichloroquinoline (0.5 g, 2.5 mmol) and 2-methylpiperazine (1.25 g, 12.5 mmol) are reacted according to method A yielding the product as a brown oil.

reactant | 4,7-Dichloroquinoline | 2.5 mmol, 0.5 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 2-methylpiperazine | 12.5 mmol, 1.25 g | CC1NCCNC1 | C5H12N2
product | 7-Chloro-4-(3-methylpiperazin-1-yl)quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CC(NCC1)C | C14H16ClN3
